US08217066B2
Step 1: (E)-1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-4-phenyl-but-3-en-1-ol:
Prepared according to the procedure described in Example 39, Step 1, using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol and iodobenzene.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(C=C)(F)F)O | C14H12BrF2NO2
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | (E)-1-[5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-2,2-difluoro-4-phenyl-but-3-en-1-ol | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(C(\C=C\C1=CC=CC=C1)(F)F)O | C20H16BrF2NO2
